US05442030
Preparation of 1,2-Bis(3-aminophenyl)hexafluorocyclobutane
To a stirred solution of SnCl2.2H2O (83.0 g) and 1,2-bis(meta-nitrophenyl)hexafluorocyclobutane (15.0 g) in 300 mL of ethanol was added NaBH4 (1.5 g) at room temperature over 20 minutes. After the addition was complete, the reaction mixture was stirred at room temperature for 3 hours and at 60° C. for one hour, and then poured into a mixture water and ether (500 mL/500 mL) and treated with NaOH solution. The ether layer was separated and aqueous layer was extracted with ether (2×300 mL). The combined ether layers were washed with NaOH solution and dried over MgSO4. After removal of the solvent, residue (13.8 g) was purified by bulb-to-bulb distillation (ca. 170° C./0.05 mmHg) twice to give 12.0 g of viscous product. 19F NMR: major isomer: -125.0 (dm J=222 Hz, 2F), -125.9 (dm, J=dm, J 222 Hz, 2F), -160.3 (s, 2F). minor isomer: -122.1 (dd, J=225.1 Hz, J=3.4 Hz, 2F), -128.7 (dd, J=255.1 Hz, J=2.4 Hz, 2F), -165.0 (s, 2F); 1H NMR: major isomer: 7.22 (t, J=7.8 Hz, 2H), 6.96 (d, J=7.8 Hz, 2H), 6.86 (s, 2H), 6.77 (dm, J=8.1 Hz, 2H), 3.76 (s, 4H); minor isomer: 7.04 (t, J=7.1 Hz, 2H), 6.63 (d, J=6.6 Hz, 2H), 6.58 (m, 4H), 3.66 (s, 4H). Anal: Calcd for C16H12F6N2 : C, 55.50; H, 3.49; F, 32.92; N, 8.09. Found: C, 55.47; H, 3.71; F, 31.12; N, 7.90.

reactant | SnCl2.2H2O | 83.0 g | O.O.Cl[Sn]Cl
reactant | 1,2-bis(meta-nitrophenyl)hexafluorocyclobutane | 15.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C1(C(C(C1(F)F)(F)F)(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C16H8F6N2O4
reactant | NaBH4 | 1.5 g | [BH4-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | 1,2-Bis(3-aminophenyl)hexafluorocyclobutane | 12.0 g | NC=1C=C(C=CC1)C1(C(C(C1(F)F)(F)F)(C1=CC(=CC=C1)N)F)F | C16H12F6N2
